US07560467B2
(a) methyl 4-(4-fluorophenyl)-6-[(methyloxy)methyl]-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate
Methyl 4-(methyloxy)-3-oxobutanoate (2.0 g, 13.69 mmol, 1 equiv), 4-Fluorobenzaldehyde (1.7 g, 13.69 mmol, 1 equiv), urea (1.64 g, 27.34 mmol, 2 equiv), and ytterbium triflate (854 mg, 1.37 mmol, 0.1 equiv) were combined in Toluene (3 mL) and heated to 100° C. in a sealed tube for three hours. The residue was diluted with 10 mL of water and extracted with EtOAc (10 mL). The organic layer was washed with brine and concentrated en vacuo to yield 4.03 g of the title compound as a light yellow oil (100%). MS (ES+) m/e 295 [M+H]+

reactant | Methyl 4-(methyloxy)-3-oxobutanoate | 13.69 mmol, 2.0 g, 1 equiv | COCC(CC(=O)OC)=O | C6H10O4
reactant | 4-Fluorobenzaldehyde | 13.69 mmol, 1.7 g, 1 equiv | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | urea | 27.34 mmol, 1.64 g, 2 equiv | NC(=O)N | CH4N2O
reactant | ytterbium triflate | 1.37 mmol, 854 mg, 0.1 equiv | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | Toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
product | methyl 4-(4-fluorophenyl)-6-[(methyloxy)methyl]-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | 4.03 g, 100% | FC1=CC=C(C=C1)C1NC(NC(=C1C(=O)OC)COC)=O | C14H15FN2O4
